US08106043B2
N-(4-(3-(Dimethylamino)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
A solution of N-(4-(3-(dimethylamino)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.16 g, 0.444 mmol) in dry methanol (5 mL) was treated with hydrogen chloride (1M solution in ether; 1.331 mL, 1.331 mmol) at room temperature. The mixture was stirred for 15 minutes, the solvent was evaporated, and the residue was dried under high vacuum to obtain the title product (0.19 g, 99%) as a solid. 1H NMR (DMSO-d6) δ 11.22 (s, 1H), 10.91 (brs, 1H), 9.67 (s, 1H), 8.69 (s, 1H), 8.15-8.11 (m, 2H), 7.36 (t, 1H, J=4.5 Hz), 7.04-6.88 (m, 3H), 3.64-3.61 (m, 2H), 3.41 (t, 2H, J=6.9 Hz), 3.14-3.02 (m, 4H), 2.72 (d, 6H, J=4.8 Hz), 2.06-1.98 (m, 2H); ESI-MS (m/z, %): 361 (MH+, free base, 91), 276 (100); ESI-HRMS calculated for C18H25N4S2 (MH+, free base), calculated: 361.1515, observed: 361.1515; HPLC purity: 98.15% by area.

reactant | N-(4-(3-(dimethylamino)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 0.444 mmol, 0.16 g | CN(CCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)C | C18H24N4S2
reactant | hydrogen chloride | 1.331 mmol, 1M, 1.331 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | N-(4-(3-(Dimethylamino)propyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | 0.19 g, 99% | Cl.Cl.CN(CCCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2)C | InChI=1S/C18H24N4S2.2ClH/c1-21(2)8-4-9-22-10-12-24-17-13-14(6-7-15(17)22)20-18(19)16-5-3-11-23-16;;/h3,5-7,11,13H,4,8-10,12H2,1-2H3,(H2,19,20);2*1H
